US04959377
4-Phenoxy-3-pyridinamine
To a slurry of 10% Pd/C in 5 ml of absolute ethanol was added 3-nitro-4-phenoxypyridine (7.5 g) in 245 ml of ethanol. This mixture was shaken on a Parr apparatus for two hours. The mixture was filtered and the filtrate concentrated to yield an oil (6.4 g) which was eluted with ethyl acetate on a silica gel column in HPLC. The desired fractions were concentrated to yield an oil (4.5 g). This material was distilled using a Kugelrohr apparatus to yield an oil (1.8 g).

reactant | 3-nitro-4-phenoxypyridine | 7.5 g | [N+](=O)([O-])C=1C=NC=CC1OC1=CC=CC=C1 | C11H8N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 245 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-Phenoxy-3-pyridinamine | 6.4 g | O(C1=CC=CC=C1)C1=C(C=NC=C1)N | C11H10N2O
